US03932630
a. 1-Isopropyl-5-methylmercapto-3-hydroxy-1,2,4-triazole
An amount of 19.6 g of methylmercaptan is added at -5°C, with stirring, to 200 ml of 5N aqueous sodium hydroxide solution. An addition is then made of 33 g of 1-isopropyl-5-chloro-3-hydroxy-1,2,4-triazole, and the mixture heated for 2 hours at 100°C. After cooling to 20°C, the solution is acidified by the addition of potassium hydrogen sulphate, and extracted with ethyl acetate. The ethyl acetate extract is dried over anhydrous magnesium sulphate; it is then concentrated in a water-jet vacuum, and the residue crystallised from a little methanol at -70°C. The obtained product is 1-isopropyl-5-methylmercapto-3-hydroxy-1,2,4-triazole with a melting point of 90°-92°C.

reactant | methylmercaptan | 19.6 g | CS | CH4S
reactant | 1-isopropyl-5-chloro-3-hydroxy-1,2,4-triazole | 33 g | C(C)(C)N1N=C(N=C1Cl)O | C5H8ClN3O
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | sodium hydroxide | 5N, 200 ml | [OH-].[Na+]
product | 1-Isopropyl-5-methylmercapto-3-hydroxy-1,2,4-triazole | C(C)(C)N1N=C(N=C1SC)O | C6H11N3OS
